US07378410B2
To a stirred solution of (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-hydroxy-2H-azepin-2-one (25 g, 102 mmol) in DMF (60 mL) is added tert-butyldimethylsilyl chloride (23.16 g, 153 mmol), and imidazole (10.45 g, 153 mmol). The reaction is stirred at room temperature for 18 h, diluted with 1 L of water and extracted with a 1:1 (2×200 mL) mixture of ethyl acetate and hexane. All organic layers are combined, washed with brine, dried with NaSO4, and concentrated under vacuum. The residue is purified by recrystallization with ethyl acetate/hexane to give 28.5 g (78%) of (3S, 6R)-3-(tert-butoxycarbonyl) aminohexahydro-6-tert-butyldimethylsilyloxy-2H-azepin-2-one as a white solid, melting point: 65-66° C.; 1H NMR (CDCl3) δ 5.86 (d, J=6 Hz, 1H), 5.58 (t, J=6 Hz, 1H), 4.18 (m, 1H), 3.91 (s, 1H), 3.35(dd, J=6 Hz and 16 Hz, 1H), 3.07 (m, 1H), 1.80 (m, 4H), 1.40 (s, 9H), 0.83 (s, 9H), 0.004 (s, 6H).

reactant | (3S, 6R)-3-(tert-butoxycarbonyl)aminohexahydro-6-hydroxy-2H-azepin-2-one | 102 mmol, 25 g | C(C)(C)(C)OC(=O)N[C@@H]1C(NC[C@@H](CC1)O)=O | C11H20N2O4
reactant | tert-butyldimethylsilyl chloride | 153 mmol, 23.16 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 153 mmol, 10.45 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | 1 L | O | H2O
product | (3S, 6R)-3-(tert-butoxycarbonyl) aminohexahydro-6-tert-butyldimethylsilyloxy-2H-azepin-2-one | 28.5 g, 78% | C(C)(C)(C)OC(=O)N[C@@H]1C(NC[C@@H](CC1)O[Si](C)(C)C(C)(C)C)=O | C17H34N2O4Si
